US07273953B2
Synthesis of N,N′-Diphenyl-N,N′-bis(3-methylphenyl)(p-terphenyl)-4,4″-diamine (exemplified compound I-11)
N-(3-Methylphenyl)-N-phenylamine was mixed in an amount of 18.05 g (98.52 mmol) with 11.87 g (24.63 mmol) of 4,4″-diiodo-1,1′:4′,1″-terphenyl, 11.06 g (197.0 mmol) of potassium hydroxide, 0.4 g (4.0 mmol) of copper-(I) chloride, 1.36 g (4.0 mmol) of tetra-n-butylphosphonium bromide, and 10 mL of toluene. This mixture was reacted at 115-125° C. for 1 hour in a nitrogen stream. After the reaction, 25 mL of toluene and 50 mL of water were added and the resultant mixture was subjected to liquid separation. Thereafter, the organic layer was washed with water and dehydrated and dried with anhydrous sodium sulfate. After the drying agent was removed by filtration, 3.9 g of activated clay was added. The resultant mixture was stirred at 50-55° C. for 1 hour and the clay was removed by filtration. The toluene was distilled off under reduced pressure and 28 mL of ethyl acetate was added to the residue. The resultant solution was cooled for crystallization, and the precipitate was taken out by filtration. Thus, the target compound (I-11) was obtained as white crude crystals in an amount of 13.7 g (yield, 94.0%). The target compound obtained had a melting point of 189-190° C. and a content as determined by HPLC of 99.5% (HPLC conditions: column, YMC-A-002; eluent, hexane/tetrahydrofuran (V/V=97/3); detection UV, 310 nm; flow rate, 0.8 mL/min).

reactant | N-(3-Methylphenyl)-N-phenylamine | CC=1C=C(C=CC1)NC1=CC=CC=C1 | C13H13N
reactant | 4,4″-diiodo-1,1′:4′,1″-terphenyl | 24.63 mmol, 11.87 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)I | C18H12I2
reactant | potassium hydroxide | 197.0 mmol, 11.06 g | [OH-].[K+]
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylphosphonium bromide | 4.0 mmol, 1.36 g | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
catalyst | copper-(I) chloride | 4.0 mmol, 0.4 g | [Cu]Cl
solvent | hexane tetrahydrofuran | CCCCCC.O1CCCC1
solvent | water | 50 mL | O | H2O
product | N,N′-Diphenyl-N,N′-bis(3-methylphenyl)(p-terphenyl)-4,4″-diamine | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC(=CC=C1)C)C1=CC=CC=C1)C1=CC(=CC=C1)C | C44H36N2
